Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11].[O:1][C:2]#[C:3][H:4],5.2171561654300005
[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4][C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3][C:9]([H:10])([H:11])[H:12],5.54195181211
[C:6]([H:7])#[C:8][O:9][H:10].[H:1][C:2][O:3][C:4][H:5]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8][O:9][H:10],-3.90683516331
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12]>>[H:1][C:2][O:3][C:4]([H:5])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12].[H:6],4.37328083199
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13]>>[H:13].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[O:12],1.7589858339900002
[C:4]([C:5][O:6][H:7])#[C:8][H:9].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([C:5][O:6][H:7])=[C:8][H:9],-1.0977448442
[H:1][C:2]=[C:3]([O:4][H:5])/[C:6]([H:7])=[C:9](\[H:10])[O:11][H:12].[H:8]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[O:11][H:12],-1.6629680322799998
[H:12].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.42571727829
[C:1]=[C:2]([H:3])[C@@:5]([H:6])([C:7]=[O:8])[O:9][H:10].[H:4]>>[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([C:7]=[O:8])[O:9][H:10],-1.7800833329599997
[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1],4.701824848419999
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15].[H:7],1.6862762960799995
[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2][O:3][C:4][H:5]>>[H:1][O:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-6.36338628
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][O:4],2.30445917276
[H:16].[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.59824895042
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]=[C:10]([H:11])[H:12].[O:8][H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12],-6.19572612031
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]=[C:5](\[H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:4],4.800171238530001
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:3]([H:4])([H:5])=[C:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2],3.78608586938
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9][O:10][H:11]>>[C:2]([H:3])([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9]/[O:10][H:11].[O:1],2.5622229036400004
[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-1.7588179615
[H:1][O:2]/[C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2]/[C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9](\[H:10])[C:11]([H:12])[H:13],3.79435041544
[H:1][O:2]/[C:3]=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-4.77663675827
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:13].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[C:14]([H:15])([H:16])[H:17],4.20337470063
[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C@:9]1([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],0.40730552343
[H:1][C:2]#[C:3][C:4]([O:6][H:7])=[C:8]([H:9])[H:10].[H:5]>>[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[H:10],-1.28307195058
[H:1][O:2]/[C:3]=[C:4](\[C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9],1.89141230178
[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9].[H:1][O:2]>>[H:1][O:2][C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9],-6.13020581526
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[H:10]>>[H:1][C:2][C:3]([H:4])=[C:5][H:6].[O:7]=[C:8]([H:9])[H:10],1.67426973248
[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.16791799255
